* MODELLING FOR STY60NM60
 
.SUBCKT STY60NM60 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  1.767
RS 9 12 0.446E-02
RD 7 6  0.204E-01
RJ 8 7  0.789E-02
CGS 5 9   0.636E-08
CGD 7 10  0.585E-08
CK  11 7  0.139E-09
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.115
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STY60NM60
 
.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 5.403
+ PHI   = 0.897
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.108E-01
+ KP    = 44.869
 
.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.212E-10
+ VJ    = 0.779
+ M     = 0.311
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.153E-09
+ VJ    = 0.748
+ M     = 0.217
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 644
+ N     = 1
+ TT    = 0.741E-06
+ RS    = 0.574E-01
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 654
 
* END OF MODELLING

